US08455477B2
A flask was charged with pyrrolidin-3-ol from the last step (60.0 g, 414 mmol, 60%), di-tert-butyl oxalate (165 g, 414 mmol and 1,4-dioxane (300 ml). The resulting solution was allowed to stir overnight. The solution was extracted with dichloromethane (3×300 ml) and the combined organic layers were dried over sodium sulfate, filtered and concentrated. The residue was purified by column chromatography on silica gel (ethyl acetate/petroleum ether gradient) to afford tert-butyl 3-hydroxypyrrolidine-1-carboxylate as white solid.

reactant | pyrrolidin-3-ol | N1CC(CC1)O | C4H9NO
reactant | di-tert-butyl oxalate | C(C(=O)OC(C)(C)C)(=O)OC(C)(C)C | C10H18O4
solvent | 1,4-dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | tert-butyl 3-hydroxypyrrolidine-1-carboxylate | OC1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
